US06133264
65 Grams of 5-acetoxy-3,4-dihydro-8-hydroxy-2(1H)-quinolinone was dissolved in 500 ml of dimethylformamide (DMF), to this solution were added 52 g of potassium carbonate powder and 50 ml of allyl bromide, the mixture thus obtained was stirred at room temperature for 8 hours. To this reaction mixture was diluted with 500 ml of water, extracted with 2 liter of ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate, then concentrated to dryness under reduced pressure. The residue was recrystallized from ethanol, there was obtained 70 g of 5-acetoxy-8-allyloxy-3,4-dihydro-2(1H)-quinolinone as brown needle-like crystals.

reactant | 5-acetoxy-3,4-dihydro-8-hydroxy-2(1H)-quinolinone | C(C)(=O)OC1=C2CCC(NC2=C(C=C1)O)=O | C11H11NO4
reactant | potassium carbonate | 52 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 50 ml | C(C=C)Br | C3H5Br
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | water | 500 ml | O | H2O
product | 5-acetoxy-8-allyloxy-3,4-dihydro-2(1H)-quinolinone | 70 g | C(C)(=O)OC1=C2CCC(NC2=C(C=C1)OCC=C)=O | C14H15NO4
